US06699880B1
One (1) g of 1-[1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one (cf. International Publication WO 96/13262) and 0.53 ml of triethylamine were suspended in 30 ml of chloroform. To the suspension 0.29 ml of methanesulfonyl chloride was added, followed by 2 hours' stirring at room temperature. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction liquid, which was then extracted with chloroform. The extract was dried over sodium sulfate, concentrated, and the resulting residue was purified by silica gel column chromatography (chloroform, chloroform/methanol=19/1) to give 860 mg of 1-[1-(1-(tert-butoxycarbonyl)piperidin-4-yl)piperidin-4-yl]-3-(methylsulfonyl)-1,3-dihydro-2H-benzimidazol-2-one. The product was dissolved in 25 ml of trifluoroacetic acid, stirred for 30 minutes at room temperature and then the trifluoroacetic acid was distilled off. To the residue ether and chloroform were added and whereby obtained crystals were recovered by filtration, to give 860 mg of the title compound.

reactant | 1-[1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C22H32N4O3
reactant | triethylamine | 0.53 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.29 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[1-(1-(tert-butoxycarbonyl)piperidin-4-yl)piperidin-4-yl]-3-(methylsulfonyl)-1,3-dihydro-2H-benzimidazol-2-one | 860 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)S(=O)(=O)C)=O | C23H34N4O5S
